* Single phase rectifier
D1 0 N001 D
D2 N001 N002 D
D3 0 N003 D
D4 N003 N002 D
C1 N002 0 4000u
R1 N002 0 1k
V1 N001 N003 SINE(0 20 50)
.model D D
.tran 1n 100m 0 100n
.end
