* Six pulse, three phase rectifier with AC and DC passive filtering
V1 net_in1 0 SINE(0 {v_amp} {freq} 0 0 0)
V2 net_in2 0 SINE(0 {v_amp} {freq} 0 0 120)
V3 net_in3 0 SINE(0 {v_amp} {freq} 0 0 240)

R1 net_in1 src_a {r_source}
R2 net_in2 src_b {r_source}
R3 net_in3 src_c {r_source}
L1 src_a ac_a {l_ac}
L2 src_b ac_b {l_ac}
L3 src_c ac_c {l_ac}

D1 ac_a dc_pos Drect
D2 dc_neg ac_a Drect
D3 ac_b dc_pos Drect
D4 dc_neg ac_b Drect
D5 ac_c dc_pos Drect
D6 dc_neg ac_c Drect

L4 dc_pos net_out {l_dc}
L5 dc_neg net_dc_neg {l_dc}
VLOAD net_out load_p 0
RLOAD load_p net_dc_neg {r_load}
CLOAD load_p net_dc_neg {c_load}

.model Drect D(Is=1n Rs=10m N=1.7 Cjo=20p)
.param v_phase_rms=230
.param v_amp={sqrt(2)*v_phase_rms}
.param freq=50
.param r_source=0.2
.param l_ac=5m
.param l_dc=20m
.param r_load=100
.param c_load=1m
.tran 10u 200m 0 10u
.end
